US09062048B2
Step D: 3-(trifluoromethyl)-1,6-naphthyridin-5(6H)-one
Into a 100 mL round-bottom flask, was placed a solution of 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-5(6H)-one (as prepared in the previous step, 1.7 g, 7.87 mmol, 1.00 equiv) in dioxane (20 mL) and 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (2.68 g, 11.81 mmol, 1.50 equiv). The reaction mixture was stirred for 6 h at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum and the residue was dissolved in 20 mL of sodium bicarbonate. The resulting solution was extracted with 3×100 mL of dichloromethane, and the combined organic layers dried over sodium sulfate and concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (1:10-1:2). The title compound was obtained as a light yellow solid.

reactant | 3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-5(6H)-one | FC(C=1C=NC=2CCNC(C2C1)=O)(F)F | C9H7F3N2O
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 11.81 mmol, 2.68 g, 1.50 equiv | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(trifluoromethyl)-1,6-naphthyridin-5(6H)-one | FC(C=1C=NC=2C=CNC(C2C1)=O)(F)F | C9H5F3N2O
